US07335781B2
Step (a): Preparing (3S,4R)-2-Methyl-3-(1-pyrrolidinyl)octan-4-ol (6c4a)
Repeat Step (a) of EXAMPLE 1, but (2R,3S)-3-amino-4-methyl pentan-2-ol is replaced with (3S,4R)-3-amino-2-methyloctan-4-ol. The analysis for compound

reactant | (2R,3S)-3-amino-4-methyl pentan-2-ol | N[C@H]([C@@H](C)O)C(C)C | C6H15NO
reactant | (3S,4R)-3-amino-2-methyloctan-4-ol | N[C@@H](C(C)C)[C@@H](CCCC)O | C9H21NO
product | (3S,4R)-2-Methyl-3-(1-pyrrolidinyl)octan-4-ol | CC(C)[C@@H]([C@@H](CCCC)O)N1CCCC1 | C13H27NO
